US04139617
The 1β,2β-methylene-19-tetrahydropyranyloxy-5-androstene-3β,17β-diol is dissolved in acetone and Jones Reagent added until a persistent yellow-orange color appears. After stirring at room temperature for 10 minutes the mixture is poured onto ice water and the precipitate which forms is collected by filtration. This precipitate is dissolved in a solution of hydrochloric acid in aqueous methanol and stirred for 30 minutes at room temperature. The methanol is removed by evaporation and the residue is triturated with water. The solid which results is filtered and crystallized from an acetone solution to yield 19-hydroxy-1β,2β-methylene-4-androstene-3,17-dione.

reactant | 1β,2β-methylene-19-tetrahydropyranyloxy-5-androstene-3β,17β-diol | C1[C@@H]2[C@H]1[C@@H](CC1=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]21COC2OCCCC2)O)O | C25H38O4
reactant | Jones Reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | CC(=O)C | C3H6O
product | 19-hydroxy-1β,2β-methylene-4-androstene-3,17-dione | OC[C@]12[C@H]3[C@@H](C(C=C1CC[C@H]1[C@@H]4CCC([C@@]4(C)CC[C@H]21)=O)=O)C3 | C20H26O3
